US04521422
N-[4-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methylpropanamide
A soluton of 3.10 g of N-[4-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]propanamide in 25 ml dimethylformamide was stirred in an inert atmosphere and 0.60 g of sodium hydride (60% oil suspension) was added. After stirring for 1 hour, the liberation of hydrogen had ceased and a solution of 1.8 g of methyl iodide in 5 ml of dimethylformamide was added portionwise. After stirring for an additional hour, the system was evaporated to remove volatiles and then the reaction mixture was triturated 3 times with hexane (3×50 ml). The reaction mixture was carefully poured into cold water and extracted with methylene chloride. The methylene chloride solution was dried and evaporated to dryness at reduced pressure to yield a crystalline solid. Recrystallization from methylene chloridehexane gave a yellow crystalline solid, mp 76°-78° C.

reactant | N-[4-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]propanamide | 3.10 g | CN(C=CC(=O)C1=CC=C(C=C1)NC(CC)=O)C | C14H18N2O2
reactant | sodium hydride | 0.60 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 1.8 g | CI | CH3I
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[4-[3-(Dimethylamino)-1-oxo-2-propenyl]phenyl]-N-methylpropanamide | CN(C=CC(=O)C1=CC=C(C=C1)N(C(CC)=O)C)C | C15H20N2O2
